US09353102B2
(3-Phenyl-thiophen-2-yl)-carbamic acid tert-butyl ester
3-Phenyl-thiophene-2-carboxylic acid (200 mg, 979 μmol), NEt3 (99.1 mg, 136 μL, 979 μmol) and diphenylphosphoryl azide (275 mg, 215 μL, 999 μmol) were dissolved in tert-BuOH. The solution was stirred at 85° C. for 5 h followed by RT overnight. The formed suspension was filtered and the filter cake was washed with a small amount of tert-BuOH. The filtrate was diluted with EtOAc, washed with H2O and brine. The organic layers were dried over Na2SO4 and concentrated in vacuo. The crude material was purified by flash chromatography (0% to 18% EtOAc in n-heptane) to give the title compound as a yellow solid (0.122 g, 45%). MS (ESI): m/z=276.2 [M+H]+.

reactant | 3-Phenyl-thiophene-2-carboxylic acid | 979 μmol, 200 mg | C1(=CC=CC=C1)C1=C(SC=C1)C(=O)O | C11H8O2S
reactant | NEt3 | 979 μmol, 136 μL, 99.1 mg | CCN(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 999 μmol, 215 μL, 275 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-BuOH | C(C)(C)(C)O | C4H10O
product | (3-Phenyl-thiophen-2-yl)-carbamic acid tert-butyl ester | 0.122 g, 45% | C(C)(C)(C)OC(NC=1SC=CC1C1=CC=CC=C1)=O | C15H17NO2S
